US05624943
Under the conditions of example 16 H, a solution of 20 g of 2-iodo-3-methoxypyridine-6-aldehyde in 100 ml of dimethylformamide is reacted with 33.5 ml of acrylic acid methyl ester in the presence of 1.73 g of palladium acetate, 26.1 g of potassium carbonate and 23.8 g of tetrabutylammonium bromide, worked up, and the crude product is chromatographed on silica gel with hexane/0-50% ethyl acetate. 11.66 g of 3-(6-formyl-3-methoxy-2-pyridyl)-(2E)-2-propenoic acid methyl ester of melting point 132°-134° C. is obtained.

reactant | 2-iodo-3-methoxypyridine-6-aldehyde | 20 g | IC1=NC(=CC=C1OC)C=O | C7H6INO2
reactant | acrylic acid methyl ester | 33.5 ml | COC(C=C)=O | C4H6O2
reactant | potassium carbonate | 26.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium bromide | 23.8 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 1.73 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(6-formyl-3-methoxy-2-pyridyl)-(2E)-2-propenoic acid methyl ester | 11.66 g | COC(\C=C\C1=NC(=CC=C1OC)C=O)=O | C11H11NO4
